US07429667B2
5-[4-(2,5-Dichloro-phenoxy)-3-fluoro-phenylamino]-3-hydroxy-isothiazole-4-carbonitrile
2-Cyano-2-[4-(2,5-dichloro-phenoxy)-3-fluoro-phenylthiocarbamoyl]-acetamide (1.6 g, 4 mmol) was dissolved in anhydrous ethyl acetate (60 ml) and a solution of bromine (0.2 ml, 4 mmol) in anhydrous ethyl acetate (10 ml) was added dropwise into the mixture with stirring at room temperature. After addition, the reaction mixture was stirred for another 3 hours. The precipitate was filtered and the solid was washed with ethyl ether and suspended in a saturated sodium bicarbonate with stirring for 10 min. The solid was filtered, then washed with water and dried in vacuo to afford a white powder.

reactant | 2-Cyano-2-[4-(2,5-dichloro-phenoxy)-3-fluoro-phenylthiocarbamoyl]-acetamide | 4 mmol, 1.6 g | C(#N)C(C(=O)N)C(NC1=CC(=C(C=C1)OC1=C(C=CC(=C1)Cl)Cl)F)=S | C16H10Cl2FN3O2S
reactant | bromine | 4 mmol, 0.2 ml | BrBr | Br2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 5-[4-(2,5-Dichloro-phenoxy)-3-fluoro-phenylamino]-3-hydroxy-isothiazole-4-carbonitrile | ClC1=C(OC2=C(C=C(C=C2)NC2=C(C(=NS2)O)C#N)F)C=C(C=C1)Cl | C16H8Cl2FN3O2S
